US07820825B2
A solution of methyl 4-((1H-indol-3-yl)methyl)benzoate (0.250 g, 0.94 mmol) in THF is added dropwise to a suspension of NaH (0.048 g, 1.19 mmol) in THF. The mixture is stirred for 15 minutes, treated with methyl iodide (0.154 g, 1.08 mmol), stirred for 30 minutes and concentrated in vacuo. The resultant solid residue is partioned between CH2Cl2 and H2O. The organic phase is separated, dried over Na2SO4 and concentrated to dryness to yield methyl 4-((1-methyl-1H-indol-3-yl)methyl)benzoate.

reactant | methyl 4-((1H-indol-3-yl)methyl)benzoate | 0.94 mmol, 0.250 g | N1C=C(C2=CC=CC=C12)CC1=CC=C(C(=O)OC)C=C1 | C17H15NO2
reactant | NaH | 1.19 mmol, 0.048 g | [H-].[Na+]
reactant | methyl iodide | 1.08 mmol, 0.154 g | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | methyl 4-((1-methyl-1H-indol-3-yl)methyl)benzoate | CN1C=C(C2=CC=CC=C12)CC1=CC=C(C(=O)OC)C=C1 | C18H17NO2
